R1 ( net180 net29)  R=8.1E5
T2 ( net29 net31 vdd! vdd!)  pfet  L=1.96E-6 W=7.17E-6
T3 ( net47 net31 vdd! vdd!)  pfet  L=1.96E-6 W=7.17E-6
T4 ( vdd! net29 net47 vdd!)  pfet  L=1.96E-6 W=7.17E-6
T5 (net183 net83 net83 0) pfet L=2.86E-6 W=8.43E-6
R6 ( net3 net238)  R=3.8E6
T7 ( net238 net163 0 0)  nfet  L=2.09E-6 W=4.74E-6
T8 ( net107 net163 0 0)  nfet  L=2.09E-6 W=4.74E-6
T9 ( net86 net238 net107 0)  nfet  L=2.09E-6 W=4.74E-6
R10 (net216 net122) R=5.9E1
T11 (net10 net15 net15 0) pfet L=0.36E-6 W=5.52E-6
R12 (net127 net45) R=1.9E5
T13 (net184 net114 net114 0) pfet L=7.57E-6 W=8.05E-6
R14 (net164 net69) R=3.8E4
R15 (net22 net68) R=4.8E5
R16 (net229 net30) R=6.8E3
T17 (net188 net58 net58 0) nfet L=1.77E-6 W=6.04E-6
C18 (net215 net74) C=0.5E-12
T19 (net12 vdd! vdd! 0) pfet L=8.66E-6 W=6.82E-6
T20 (net176 net54 net54 0) nfet L=0.36E-6 W=6.86E-6
T21 (net132 net219 net219 0) nfet L=5.05E-6 W=1.84E-6
R22 (net71 net73) R=2.0E6
R23 (net215 net127) R=7.5E4
T24 (net142 vdd! vdd! 0) nfet L=1.04E-6 W=5.02E-6
T25 (net54 net36 net36 0) nfet L=6.09E-6 W=9.89E-6
R26 (net119 net76) R=0.1E4
T27 (net214 net50 net50 0) pfet L=5.00E-6 W=0.59E-6
R28 (0 net142) R=3.5E2
T29 (net116 net227 net227 0) pfet L=7.91E-6 W=6.26E-6
R30 (net190 net46) R=5.0E5
R31 (net171 net82) R=8.4E5
T32 (net197 net183 net183 0) pfet L=0.29E-6 W=5.65E-6
R33 (net119 net96) R=3.2E1
C34 (net11 net21) C=8.1E-5
T35 (net118 net109 net109 0) nfet L=8.26E-6 W=5.39E-6
T36 (net18 net137 net137 0) nfet L=4.51E-6 W=9.03E-6
T37 (net226 net87 net87 0) pfet L=4.69E-6 W=4.88E-6
R38 (net72 net133) R=2.3E0
C39 (net28 net148) C=0.1E-13
C40 (net192 net30) C=5.6E-5
T41 (net221 net182 net182 0) pfet L=2.32E-6 W=1.94E-6
C42 (net45 net65) C=7.9E-12
T43 (net35 net104 net104 0) pfet L=9.46E-6 W=8.35E-6
C44 (net182 vdd!) C=4.3E-9
T45 (net90 0 0 0) nfet L=3.43E-6 W=2.09E-6
C46 (net130 net147) C=5.1E-9
C47 (net39 net79) C=2.6E-9
T48 (net120 net101 net101 0) nfet L=9.93E-6 W=4.67E-6
R49 (net60 net64) R=0.2E1
R50 (net95 net25) R=6.5E0
R51 (net212 vdd!) R=8.4E2
T52 (net21 net201 net201 0) pfet L=1.27E-6 W=4.21E-6
C53 (net160 net95) C=1.4E-5
C54 (net66 net211) C=3.6E-14
T55 (net52 net95 net95 0) pfet L=3.90E-6 W=4.25E-6
T56 (net156 net131 net131 0) nfet L=4.78E-6 W=5.98E-6
T57 (net35 net89 net89 0) pfet L=4.98E-6 W=2.55E-6
R58 (net164 net99) R=1.0E5
T59 (net150 net37 net37 0) nfet L=5.50E-6 W=0.62E-6
T60 (net3 net179 net179 0) pfet L=6.68E-6 W=5.75E-6
C61 (net24 net70) C=8.0E-9
R62 (net94 0) R=4.7E2
T63 (net193 net78 net78 0) pfet L=4.72E-6 W=6.21E-6
T64 (net2 vdd! vdd! 0) nfet L=9.56E-6 W=7.23E-6
T65 (net209 net100 net100 0) nfet L=5.92E-6 W=4.45E-6
T66 (net7 net205 net205 0) pfet L=5.88E-6 W=2.89E-6
R67 (net100 net79) R=7.1E5
R68 (net30 net48) R=1.7E6
R69 (net184 net237) R=6.0E1
C70 (net235 net54) C=1.0E-13
C71 (net52 net32) C=2.5E-12
C72 (net188 net52) C=7.7E-9
T73 (net176 net2 net2 0) nfet L=8.96E-6 W=7.62E-6
T74 (net189 net204 net204 0) nfet L=9.80E-6 W=8.67E-6
C75 (net22 net169) C=3.4E-5
R76 (net2 net214) R=1.3E3
R77 (net101 net171) R=5.4E3
T78 (net112 net227 net227 0) nfet L=8.77E-6 W=3.59E-6
T79 (net145 net35 net35 0) nfet L=8.12E-6 W=6.24E-6
R80 (net173 net160) R=8.6E5
T81 (net225 net236 net236 0) nfet L=6.24E-6 W=5.66E-6
T82 (net15 net233 net233 0) pfet L=7.18E-6 W=8.47E-6
T83 (net111 net122 net122 0) nfet L=0.83E-6 W=3.53E-6
T84 (vdd! net139 net139 0) nfet L=5.53E-6 W=3.48E-6
T85 (net140 net149 net149 0) nfet L=7.14E-6 W=8.41E-6
T86 (net78 net10 net10 0) nfet L=9.71E-6 W=0.25E-6
T87 (net103 net70 net70 0) nfet L=9.51E-6 W=4.87E-6
T88 (net157 net95 net95 0) nfet L=6.87E-6 W=8.98E-6
R89 (net101 net89) R=5.0E1
C90 (net236 net178) C=0.2E-14
R91 (net120 net209) R=9.9E1
R92 (net160 net14) R=5.2E3
T93 (net184 net174 net174 0) nfet L=0.36E-6 W=3.89E-6
R94 (net208 net41) R=4.9E2
R95 (net239 net116) R=0.3E5
C96 (net228 net137) C=7.8E-11
T97 (net156 net98 net98 0) pfet L=1.75E-6 W=3.83E-6
R98 (net218 net40) R=3.4E6
R99 (net18 net213) R=6.6E0
R100 (net159 net136) R=7.9E3
C101 (vdd! net122) C=4.2E-7
R102 (net116 0) R=5.1E2
T103 (net96 net95 net95 0) pfet L=7.70E-6 W=7.96E-6
T104 (net213 net236 net236 0) pfet L=2.25E-6 W=6.67E-6
C105 (net226 net231) C=3.8E-14
T106 (net206 net35 net35 0) nfet L=7.69E-6 W=8.13E-6
T107 (net129 net192 net192 0) pfet L=3.59E-6 W=7.11E-6
R108 (0 net1) R=1.1E3
R109 (net56 net123) R=0.7E5
C110 (net129 net2) C=3.0E-9
R111 (net12 net231) R=8.7E6
T112 (net154 net147 net147 0) pfet L=3.79E-6 W=0.60E-6
T113 (net42 net65 net65 0) pfet L=9.96E-6 W=1.59E-6
T114 (net215 net117 net117 0) pfet L=1.55E-6 W=9.76E-6
T115 (net200 0 0 0) nfet L=5.45E-6 W=3.43E-6
R116 (net86 net237) R=3.3E0
T117 (net132 net189 net189 0) nfet L=6.83E-6 W=6.91E-6
C118 (vdd! net52) C=1.8E-10
R119 (net20 net231) R=9.6E5
T120 (net184 0 0 0) nfet L=5.50E-6 W=6.79E-6
T121 (net221 net147 net147 0) nfet L=5.46E-6 W=3.81E-6
C122 (net104 net197) C=8.2E-6
C123 (net173 net64) C=1.0E-9
T124 (net211 net234 net234 0) nfet L=8.62E-6 W=5.25E-6
T125 (net172 net48 net48 0) nfet L=4.50E-6 W=5.22E-6
C126 (net157 net154) C=0.4E-14
T127 (net143 net11 net11 0) nfet L=5.24E-6 W=4.29E-6
T128 (net37 net137 net137 0) pfet L=9.07E-6 W=8.19E-6
T129 (net191 net191 net191 0) pfet L=1.51E-6 W=8.04E-6
T130 (net149 net150 net150 0) nfet L=3.82E-6 W=9.04E-6
R131 (net18 net121) R=3.2E0
R132 (net193 net148) R=6.1E2
R133 (net70 net146) R=9.8E4
R134 (net180 net6) R=0.8E2
T135 (net70 net200 net200 0) pfet L=6.62E-6 W=2.01E-6
C136 (net224 net27) C=3.5E-9
R137 (vdd! net166) R=2.6E6
T138 (net168 net49 net49 0) pfet L=4.60E-6 W=9.77E-6
T139 (net155 net20 net20 0) nfet L=6.23E-6 W=3.76E-6
R140 (net59 net172) R=2.1E4
T141 (net222 net182 net182 0) nfet L=3.35E-6 W=5.66E-6
R142 (net87 net53) R=7.8E3
R143 (net85 net89) R=9.0E1
T144 (net149 net181 net181 0) pfet L=3.88E-6 W=8.99E-6
C145 (net151 net198) C=6.0E-10
R146 (net156 vdd!) R=9.2E3
C147 (net62 net183) C=2.5E-5
C148 (net129 net66) C=0.9E-12
R149 (vdd! net78) R=0.4E1
C150 (net202 net232) C=0.2E-7
T151 (net79 net147 net147 0) nfet L=7.61E-6 W=8.28E-6
C152 (net190 net138) C=3.1E-10
T153 (net220 net111 net111 0) pfet L=3.51E-6 W=7.92E-6
C154 (net160 net168) C=5.4E-12
T155 (0 net37 net37 0) nfet L=4.96E-6 W=5.44E-6
C156 (net217 net38) C=8.0E-12
T157 (net59 net30 net30 0) pfet L=0.47E-6 W=2.95E-6
R158 (net27 net190) R=3.9E6
C159 (net81 0) C=2.9E-9
T160 (net222 net50 net50 0) nfet L=9.29E-6 W=6.83E-6
R161 (net167 net194) R=7.5E3
R162 (net133 net167) R=5.1E5
T163 (net200 net189 net189 0) nfet L=7.98E-6 W=4.65E-6
C164 (net37 net43) C=7.0E-9
T165 (0 net192 net192 0) pfet L=3.05E-6 W=0.11E-6
R166 (net68 net133) R=9.1E4
T167 (net226 net11 net11 0) pfet L=6.26E-6 W=2.25E-6
T168 (net156 vdd! vdd! 0) pfet L=3.02E-6 W=0.13E-6
T169 (net87 net90 net90 0) nfet L=4.02E-6 W=6.13E-6
R170 (net59 net186) R=1.1E4
T171 (net217 net122 net122 0) pfet L=9.12E-6 W=0.37E-6
C172 (net72 net177) C=2.6E-13
T173 (net175 net186 net186 0) pfet L=9.47E-6 W=4.27E-6
C174 (net91 net39) C=6.5E-11
T175 (net167 net223 net223 0) pfet L=9.28E-6 W=7.28E-6
T176 (net113 net74 net74 0) pfet L=6.86E-6 W=6.55E-6
T177 (net122 net120 net120 0) nfet L=3.94E-6 W=3.34E-6
C178 (net149 net161) C=5.8E-9
T179 (net157 net62 net62 0) nfet L=8.11E-6 W=4.97E-6
T180 (net128 net18 net18 0) pfet L=3.49E-6 W=2.13E-6
R181 (net160 net170) R=4.4E0
R182 (net95 net33) R=0.4E3
C183 (net40 net228) C=5.7E-11
T184 (net17 net234 net234 0) nfet L=5.90E-6 W=4.72E-6
T185 (net50 net236 net236 0) nfet L=7.71E-6 W=4.56E-6
R186 (net18 net212) R=1.1E2
R187 (net85 net176) R=2.4E5
T188 (0 net112 net112 0) pfet L=9.27E-6 W=3.16E-6
R189 (net171 net213) R=1.9E6
T190 (0 net33 net33 0) pfet L=2.46E-6 W=2.20E-6
T191 (net197 net188 net188 0) pfet L=3.46E-6 W=8.04E-6
T192 (net104 net197 net197 0) pfet L=6.31E-6 W=8.22E-6
T193 (net164 net229 net229 0) pfet L=4.84E-6 W=0.45E-6
C194 (net84 net4) C=8.3E-14
T195 (net51 net126 net126 0) nfet L=6.11E-6 W=3.95E-6
C196 (0 net58) C=0.5E-14
T197 (0 0 0 0) nfet L=9.47E-6 W=0.85E-6
T198 (net236 net209 net209 0) nfet L=2.56E-6 W=6.52E-6
T199 (net194 net71 net71 0) nfet L=0.52E-6 W=4.03E-6
C200 (net213 net89) C=4.2E-6
T201 (net106 net57 net57 0) pfet L=7.79E-6 W=1.45E-6
T202 (net161 net207 net207 0) pfet L=8.49E-6 W=9.29E-6
T203 (net220 vdd! vdd! 0) pfet L=7.53E-6 W=0.48E-6
R204 (net199 net95) R=6.7E6
T205 (net91 net143 net143 0) nfet L=1.31E-6 W=6.28E-6
T206 (net160 net239 net239 0) nfet L=6.03E-6 W=1.16E-6
T207 (net129 net239 net239 0) nfet L=1.43E-6 W=4.47E-6
T208 (net78 net140 net140 0) nfet L=0.30E-6 W=1.11E-6
C209 (net178 vdd!) C=8.8E-12
C210 (net113 net73) C=8.4E-12
T211 (net102 net40 net40 0) nfet L=6.73E-6 W=9.33E-6
R212 (net177 net78) R=3.2E6
T213 (net206 net134 net134 0) nfet L=4.53E-6 W=6.44E-6
C214 (0 net137) C=1.9E-10
T215 (net154 net25 net25 0) pfet L=4.10E-6 W=4.59E-6
R216 (net228 net174) R=5.5E6
T217 (net197 net9 net9 0) nfet L=3.98E-6 W=9.68E-6
T218 (net167 vdd! vdd! 0) pfet L=4.20E-6 W=2.31E-6
T219 (net148 net21 net21 0) nfet L=8.24E-6 W=2.85E-6
T220 (net69 net63 net63 0) pfet L=6.84E-6 W=0.39E-6
T221 (vdd! net174 net174 0) pfet L=4.31E-6 W=9.89E-6
T222 (net184 net185 net185 0) pfet L=4.34E-6 W=8.69E-6
C223 (net114 net126) C=1.9E-11
R224 (net211 net192) R=6.7E1
R225 (net57 net164) R=5.3E0
C226 (net39 net179) C=4.7E-8
T227 (0 net34 net34 0) pfet L=3.18E-6 W=6.42E-6
C228 (net226 net37) C=7.9E-9
T229 (net71 net203 net203 0) pfet L=5.57E-6 W=4.61E-6
C230 (net78 net122) C=2.9E-13
T231 (net18 net166 net166 0) pfet L=9.09E-6 W=9.17E-6
C232 (net116 net89) C=9.0E-7
R233 (net110 net69) R=6.5E0
T234 (net115 net108 net108 0) nfet L=8.09E-6 W=2.84E-6
C235 (net1 net172) C=5.7E-9
C236 (net76 net6) C=6.2E-12
C237 (net98 net223) C=7.0E-11
C238 (0 net179) C=0.5E-9
T239 (net6 net51 net51 0) nfet L=4.93E-6 W=6.18E-6
R240 (net227 net87) R=0.2E0
T241 (vdd! net203 net203 0) pfet L=9.98E-6 W=3.55E-6
T242 (net232 net184 net184 0) nfet L=1.07E-6 W=0.68E-6
C243 (net228 net75) C=7.9E-7
T244 (net162 vdd! vdd! 0) nfet L=7.34E-6 W=2.83E-6
R245 (net22 net55) R=0.3E5
R246 (net168 net41) R=7.5E4
T247 (net83 net35 net35 0) nfet L=0.76E-6 W=5.64E-6
T248 (net115 net65 net65 0) nfet L=1.15E-6 W=0.50E-6
T249 (net132 net139 net139 0) pfet L=1.98E-6 W=1.29E-6
T250 (net219 net60 net60 0) pfet L=0.86E-6 W=1.71E-6
R251 (net80 net237) R=2.2E0
C252 (net93 net151) C=7.9E-7
R253 (0 net67) R=1.5E0
C254 (net201 net54) C=2.0E-14
T255 (net223 net161 net161 0) pfet L=6.79E-6 W=4.74E-6
T256 (net93 net2 net2 0) pfet L=5.09E-6 W=8.58E-6
R257 (net84 net1) R=1.2E0
T258 (net104 net149 net149 0) pfet L=6.23E-6 W=4.94E-6
T259 (net4 net11 net11 0) pfet L=5.90E-6 W=6.25E-6
C260 (net188 vdd!) C=5.4E-14
C261 (net58 net93) C=9.1E-12
T262 (net120 net35 net35 0) nfet L=9.73E-6 W=3.40E-6
C263 (net25 net142) C=5.3E-5
T264 (net193 net206 net206 0) pfet L=7.55E-6 W=3.70E-6
C265 (net179 net22) C=7.0E-11
R266 (net93 net15) R=6.5E0
R267 (net173 net37) R=9.0E4
T268 (vdd! net49 net49 0) pfet L=6.83E-6 W=6.42E-6
R269 (net218 net202) R=1.4E5
T270 (net173 0 0 0) pfet L=7.89E-6 W=0.30E-6
C271 (net41 0) C=4.3E-11
T272 (net137 0 0 0) pfet L=2.56E-6 W=0.98E-6
T273 (net157 net96 net96 0) nfet L=6.12E-6 W=4.60E-6
T274 (net120 net182 net182 0) pfet L=7.78E-6 W=7.78E-6
T275 (net27 net103 net103 0) pfet L=6.67E-6 W=3.41E-6
C276 (net63 net35) C=1.8E-14
R277 (net109 net208) R=6.6E4
C278 (net70 net130) C=3.8E-11
T279 (0 net55 net55 0) pfet L=7.17E-6 W=0.99E-6
R280 (net158 net179) R=8.9E5
C281 (net127 vdd!) C=2.0E-11
C282 (net22 net4) C=9.9E-8
C283 (net106 net214) C=3.8E-6
T284 (net116 net65 net65 0) pfet L=4.48E-6 W=7.41E-6
T285 (vdd! net216 net216 0) nfet L=8.02E-6 W=9.84E-6
R286 (net65 net54) R=4.2E4
T287 (0 net167 net167 0) nfet L=1.31E-6 W=8.89E-6
C288 (net75 net178) C=6.5E-9
T289 (net130 net22 net22 0) nfet L=3.17E-6 W=3.95E-6
T290 (net176 net194 net194 0) nfet L=8.49E-6 W=5.68E-6
C291 (0 net89) C=8.9E-7
T292 (net4 net55 net55 0) pfet L=6.59E-6 W=8.41E-6
R293 (net3 net15) R=8.8E2
C294 (net119 net44) C=1.5E-7
T295 (net82 net216 net216 0) nfet L=5.33E-6 W=6.96E-6
T296 (net98 net205 net205 0) nfet L=1.82E-6 W=5.20E-6
C297 (net46 net55) C=8.3E-10
C298 (net12 net9) C=5.5E-8
C299 (net20 net10) C=8.3E-11
R300 (net180 vdd!) R=6.1E2
T301 (0 net86 net86 0) nfet L=3.24E-6 W=9.01E-6
C302 (net2 net165) C=0.1E-5
T303 (net117 net182 net182 0) pfet L=5.05E-6 W=7.24E-6
T304 (net118 net168 net168 0) pfet L=4.40E-6 W=5.77E-6
T305 (net21 net140 net140 0) pfet L=6.17E-6 W=8.01E-6
T306 (net106 vdd! vdd! 0) nfet L=0.68E-6 W=0.21E-6
C307 (net82 net90) C=7.0E-11
T308 (net230 vdd! vdd! 0) nfet L=5.52E-6 W=7.39E-6
T309 (net99 net106 net106 0) pfet L=3.74E-6 W=2.32E-6
T310 (net53 net176 net176 0) nfet L=6.13E-6 W=6.48E-6
R311 (net230 0) R=9.8E0
T312 (0 net106 net106 0) pfet L=3.25E-6 W=0.76E-6
T313 (net59 net103 net103 0) pfet L=1.50E-6 W=2.40E-6
T314 (net236 net90 net90 0) pfet L=7.07E-6 W=7.10E-6
R315 (net27 net50) R=0.3E1
C316 (net20 net109) C=8.6E-12
C317 (net223 net53) C=5.2E-5
T318 (vdd! net44 net44 0) nfet L=7.09E-6 W=8.47E-6
R319 (net237 net59) R=3.9E4
C320 (net237 net223) C=1.0E-11
C321 (net154 net49) C=9.5E-5
C322 (net226 net152) C=8.7E-7
C323 (net105 net156) C=1.9E-12
T324 (net121 net128 net128 0) pfet L=4.81E-6 W=5.86E-6
T325 (net1 net123 net123 0) pfet L=5.08E-6 W=0.93E-6
T326 (net25 net53 net53 0) nfet L=2.15E-6 W=1.02E-6
R327 (net141 vdd!) R=8.4E2
T328 (net5 net10 net10 0) pfet L=1.60E-6 W=4.83E-6
T329 (vdd! net164 net164 0) nfet L=7.57E-6 W=3.22E-6
T330 (net108 net178 net178 0) nfet L=5.49E-6 W=0.62E-6
T331 (net124 net95 net95 0) nfet L=2.36E-6 W=7.98E-6
R332 (net60 net220) R=7.3E3
R333 (net6 net18) R=8.6E5
R334 (net74 net152) R=4.1E0
T335 (net49 net121 net121 0) pfet L=8.15E-6 W=1.57E-6
C336 (net74 net35) C=6.2E-14
C337 (net218 net208) C=0.5E-7
C338 (net209 net201) C=8.2E-6
C339 (net227 net99) C=6.2E-13
R340 (net146 net193) R=1.2E1
C341 (net66 net197) C=9.0E-12
T342 (net25 net158 net158 0) pfet L=8.12E-6 W=4.64E-6
T343 (net140 net123 net123 0) pfet L=5.94E-6 W=0.80E-6
T344 (net201 net109 net109 0) pfet L=6.29E-6 W=3.74E-6
T345 (net75 net232 net232 0) pfet L=9.28E-6 W=1.55E-6
T346 (net69 net91 net91 0) pfet L=1.39E-6 W=5.72E-6
T347 (net213 net37 net37 0) nfet L=1.73E-6 W=9.56E-6
T348 (net56 net35 net35 0) pfet L=9.14E-6 W=9.35E-6
T349 (net77 net174 net174 0) nfet L=3.10E-6 W=6.31E-6
T350 (net40 net61 net61 0) nfet L=7.75E-6 W=3.66E-6
R351 (net199 net7) R=4.5E1
C352 (net2 net11) C=1.2E-8
T353 (net223 0 0 0) nfet L=6.84E-6 W=2.32E-6
R354 (net156 net144) R=2.4E3
T355 (net140 net210 net210 0) pfet L=7.39E-6 W=6.69E-6
T356 (net72 net178 net178 0) pfet L=8.42E-6 W=1.09E-6
C357 (0 net102) C=2.9E-6

