R1 ( net2 net3)  R=1.0E2
T2 ( net3 net7 vdd! vdd!)  pfet  L=9.40E-6 W=0.91E-6
T3 ( net4 net7 vdd! vdd!)  pfet  L=9.40E-6 W=0.91E-6
T4 ( 0 net3 net7 vdd!)  pfet  L=9.40E-6 W=0.91E-6
T5 (net19 net1 net1 0) pfet L=2.98E-6 W=0.94E-6
R6 ( net20 net10)  R=2.7E1
T7 ( net10 net12 vdd! vdd!)  pfet  L=3.70E-6 W=5.38E-6
T8 ( net5 net12 vdd! vdd!)  pfet  L=3.70E-6 W=5.38E-6
T9 ( 0 net10 net12 vdd!)  pfet  L=3.70E-6 W=5.38E-6
R10 (0 net8) R=4.2E0
C11 (net8 net15) C=8.1E-7
T12 (net14 net4 net4 0) nfet L=6.11E-6 W=9.47E-6
R13 (net21 net4) R=1.2E2
T14 (net11 net5 net5 0) nfet L=4.20E-6 W=1.95E-6
T15 (net13 net9 net9 0) nfet L=6.45E-6 W=2.25E-6
C16 (net21 net1) C=1.1E-12
T17 (net11 net20 net20 0) pfet L=1.19E-6 W=2.31E-6
R18 (net15 net9) R=2.1E3
C19 (net16 net8) C=9.1E-6
R20 (net1 net21) R=4.2E2
R21 (net19 net21) R=0.6E6

